US08541455B2
To a suspension of 2.1 g (90.8 mmol) of sodium in 55 mL of anhydrous Et2O is added dropwise, at 0° C. under argon, a mixture of 15 g (90.8 mmol) of methyl 3-(pyridin-3-yl)propanoate and 7.3 mL (57.41 mmol) of ethyl formate. The medium is then stirred for 12 hours at room temperature, taken up in 200 mL of water and extracted with 100 mL of Et2O. The aqueous phase is acidified to pH 5 and then extracted with 2×300 mL of EtOAc. The organic phase is then dried over Na2SO4, filtered and concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a DCM/MeOH gradient of 0 to 10% MeOH. 4.8 g of methyl 2-formyl-3-(pyridin-3-yl)propanoate are obtained in the form of a white solid.

reactant | sodium | 90.8 mmol, 2.1 g | [Na] | Na
reactant | methyl 3-(pyridin-3-yl)propanoate | 90.8 mmol, 15 g | N1=CC(=CC=C1)CCC(=O)OC | C9H11NO2
reactant | ethyl formate | 57.41 mmol, 7.3 mL | C(=O)OCC | C3H6O2
solvent | Et2O | 55 mL | CCOCC | C4H10O
solvent | water | 200 mL | O | H2O
product | methyl 2-formyl-3-(pyridin-3-yl)propanoate | 4.8 g, Yield=28% | C(=O)C(C(=O)OC)CC=1C=NC=CC1 | C10H11NO3
